US06479490B2
A mixture of 3-(1-methylindol-3-yl)-4-(3-aminophenyl)-1H-pyrrole-2,5-dione (200 mg, 0.63 mmol) and 2,2-dimethyl-1,3-dioxane-5-one (98 mg, 0.76 mmol) in MeOH (10 mL) was stirred at room temperature for 15 min., and then NaCNBH3 (79 mg, 1.26 mmol) was added. After stirring the reaction mixture overnight the volatiles were removed under vacuo and the residue was purified by preparatory TLC (1% MeOH/CH2Cl2) to give 3-(1-methylindol-3-yl)-4-[3-(2,2-dimethyl-1,3-dioxan-5-ylamino)phenyl]-1H-pyrrole-2,5-dione (185 mg, 68%). MS(EI): M+ 431, MP: 201-203° C.

reactant | 3-(1-methylindol-3-yl)-4-(3-aminophenyl)-1H-pyrrole-2,5-dione | 0.63 mmol, 200 mg | CN1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CC(=CC=C1)N)=O)=O | C19H15N3O2
reactant | 2,2-dimethyl-1,3-dioxane-5-one | 0.76 mmol, 98 mg | CC1(OCC(CO1)=O)C | C6H10O3
reactant | NaCNBH3 | 1.26 mmol, 79 mg | [BH3-]C#N.[Na+]
solvent | MeOH | 10 mL | CO | CH4O
product | 3-(1-methylindol-3-yl)-4-[3-(2,2-dimethyl-1,3-dioxan-5-ylamino)phenyl]-1H-pyrrole-2,5-dione | 185 mg, 68% | CN1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CC(=CC=C1)NC1COC(OC1)(C)C)=O)=O | C25H25N3O4
